US05412141
[1-Chloro4-oxo4-phenylbutylidene]bisphosphonic acid tetraethyl ester (III)
Acetophenone (1.17 ml) is dissolved in THF (20 ml), cooled to -78° and treated with lithium bis(trimethylsilyl)amide. The solution is stirred for 30 minutes and a solution of ethenylidenebisphosphonic acid tetraethyl ester (I, 2.7g) in THF (5 ml) is added. The solution is stirred for several minutes then warmed to 0° for 1 hour. N-Chlorosuccinimide (1.33 g) is added and the solution was stirred at 22° for 18 hours. The reaction is quenched with aqueous ammonium chloride and concentrated. The residue is diluted with ethyl acetate and washed with sulfuric acid (2N, 2×), water, sodium bicarbonate, saline and dried with magnesium sulfate and concentrated. The resultant mixture is chromatographed eluting with ethyl acetate, slowly increased from 1 to 5% ethanol/ethyl acetate. The appropriate fractions are pooled and concentrated to give the title compound, MS (m/e) 454, 426, 322 and 105; IR (neat) 1686, 1599, 1581, 1448, 1391, 1368, 1259, 1214 and 1163 cm-1 ; NMR (CDCl3) 8.02-7.99, 7.59-7.54, 7.49-7.44, 4.37-4.25, 3.50, 2.78-2.64 and 1.38 δ. Another compound is formed by the reaction which is not within the scope of the invention.

reactant | Acetophenone | 1.17 ml | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethenylidenebisphosphonic acid tetraethyl ester | 2.7g | C(C)OP(OCC)(=O)C(=C)P(OCC)(OCC)=O | C10H22O6P2
reactant | N-Chlorosuccinimide | 1.33 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | [1-Chloro4-oxo4-phenylbutylidene]bisphosphonic acid tetraethyl ester | C(C)OP(OCC)(=O)C(CCC(C1=CC=CC=C1)=O)(Cl)P(OCC)(OCC)=O | C18H29ClO7P2
